US05814644
A solution of lithium hydroxide (346 mg, 8.25 mmol) in water (2 ml) was added to methyl indole-2-acetate (520 mg, 2.75 mmol) (prepared using the method of Capuano et al, Chem. Ber., 1986, 119, 2069) in THF (2 ml) and methanol (6 ml) and the mixture stirred for 1 h. The mixture was concentrated in vacuo, diluted with water (20 ml) and extracted with diethyl ether (2×10 ml). The aqueous layer was carefully acidified to pH 2 with 1M HCl and extracted into dichloromethane (3×20 ml). The extracts were dried (MgSO4) and evaporated in vacuo to give indole-2-acetic acid (350 mg, 72%) as a pink solid.

reactant | lithium hydroxide | 8.25 mmol, 346 mg | [OH-].[Li+]
reactant | methyl indole-2-acetate | 2.75 mmol, 520 mg | N1C(=CC2=CC=CC=C12)CC(=O)OC | C11H11NO2
reactant | methanol | 6 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | indole-2-acetic acid | 350 mg, 72% | N1C(=CC2=CC=CC=C12)CC(=O)O | C10H9NO2
